US07737152B2
2-(3,4,5-Trimethoxyphenylamino)-6-[4-(4-fluorophenylcarbonyl)-aminophenyl]-pyrazine, CJS 495
Method LL. In a tube suitable for parallel synthesis, 2-(3,4,5-trimethoxyphenylamino)-6-(4-aminophenyloxy)-pyrazine (50 mg, 0.14 mmol) and 4-fluorophenylcarbonyl chloride (21 μL, 0.17 mmol) were stirred under nitrogen for 20 hours in dry dioxane (5 mL) in the presence of triethylamine (25 mL, 1.2 eq). The reaction mixture was evaporated to dryness, redissolved in 10 mL AcOEt, the solution washed (2×10 mL brine), dried, and purified by column chromatography (AcOEt) to give the title compound (33 mg). Yield: 50%. 1H NMR (250 MHz, DMSO-d6) δ 3.69 (s, 3H, [CH3O]4), 3.89 (s, 6H, [CH3O]3+5), 7.32 (s, 2H, Harom2′+6′), 7.44 (t, 2H, Harom 2″+6″, J=8.8 Hz), 7.98 (d, 2H, Harom 3+5, J=8.6 Hz), 8.10-8.21 (m, 4H, Harom 3″+5″ and Harom 2+6), 8.18 (s, 1H, HPz 5), 8.57 (s, 1H, HPz 3), 9.61 (s, 1H, NH), 10.50 (s, 1H, NHamide). m/z 475.2 [(M+H)+ calcd for C26H23FN4O4 474.2].

reactant | 2-(3,4,5-trimethoxyphenylamino)-6-(4-aminophenyloxy)-pyrazine | 0.14 mmol, 50 mg | COC=1C=C(C=C(C1OC)OC)NC1=NC(=CN=C1)OC1=CC=C(C=C1)N | C19H20N4O4
reactant | 4-fluorophenylcarbonyl chloride | 0.17 mmol, 21 μL | FC1=CC=C(C=C1)C(=O)Cl | C7H4ClFO
reactant | triethylamine | 25 mL, 1.2 eq | C(C)N(CC)CC | C6H15N
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 2-(3,4,5-Trimethoxyphenylamino)-6-[4-(4-fluorophenylcarbonyl)-aminophenyl]-pyrazine | 33 mg, Yield: 50% | COC=1C=C(C=C(C1OC)OC)NC1=NC(=CN=C1)C1=C(C=C(C=C1)C(=O)C1=CC=C(C=C1)F)N | C26H23FN4O4
